US07989472B2
Step A: 4,4′-[4-(Trifluoromethyl)cyclohexane-1,1-diyl]diphenol
A solution of 4-(trifluoromethyl)cyclohexanone (1.13 g, 6.8 mmol) and phenol (2.01 g, 21.4 mmol) in 3 mL of concentrated HCl (aq) was stirred at 40° C. for 18 h. The reaction mixture was diluted with EtOAc and saturated aqueous NaHCO3 was slowly added. The organic layer was collected and the aqueous layer was extracted twice with EtOAc. The combined organic layers were concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with a gradient of 0% to 40% EtOAc/hexanes over 10 column volumes, then 40% to 100% EtOAc/hexanes over 5 column volumes, affording the title compound as a white solid.

reactant | 4-(trifluoromethyl)cyclohexanone | 6.8 mmol, 1.13 g | FC(C1CCC(CC1)=O)(F)F | C7H9F3O
reactant | phenol | 21.4 mmol, 2.01 g | C1(=CC=CC=C1)O | C6H6O
solvent | HCl | 3 mL | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4,4′-[4-(Trifluoromethyl)cyclohexane-1,1-diyl]diphenol | FC(C1CCC(CC1)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)(F)F | C19H19F3O2
